US06787558B2
a) N,N′-Bis-(3-iodo-4-methyl-phenyl)-malonamide
A mixture of diethyl malonate (16.0 g, 100 mmol) and 3-iodo-4-methylaniline (46.6 g, 200 mmol) was heated at 210° C. for 20 min, allowing the liberated ethanol to evaporate. After cooling the solid formed was triturated in hot ethanol (200 mL) to afford the title compound (43.4 g, 81%). Light brown solid, ISP-MS: m/e=535.0 ([M+H]+).

reactant | diethyl malonate | 100 mmol, 16.0 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 3-iodo-4-methylaniline | 200 mmol, 46.6 g | IC=1C=C(N)C=CC1C | C7H8IN
solvent | ethanol | C(C)O | C2H6O
product | N,N′-Bis-(3-iodo-4-methyl-phenyl)-malonamide | 43.4 g, 81% | IC=1C=C(C=CC1C)NC(CC(=O)NC1=CC(=C(C=C1)C)I)=O | C17H16I2N2O2
